US06867205B2
5-Aminomethyl-2-azepan-1-yl-6-(2,4-dichloro-phenyl)-pyrimidin-4-ylamine
The title compound, MS: m/e=366.0 (M+H+), was prepared from azepane-1-carboxamidine and 2-(2,4-dichloro-benzylidene)-malononitrile in analogy to the process described in Example 11 as a solid.

reactant | azepane-1-carboxamidine | N1(CCCCCC1)C(=N)N | C7H15N3
reactant | 2-(2,4-dichloro-benzylidene)-malononitrile | ClC1=C(C=C(C#N)C#N)C=CC(=C1)Cl | C10H4Cl2N2
product | 5-Aminomethyl-2-azepan-1-yl-6-(2,4-dichloro-phenyl)-pyrimidin-4-ylamine | NCC=1C(=NC(=NC1C1=C(C=C(C=C1)Cl)Cl)N1CCCCCC1)N | C17H21Cl2N5
